US07704996B2
To a solution of (1-methylcyclobutyl)methanol (32 mmol) in CH2Cl2 (100 mL) are added triethylamine (65 mmol), trimethylamine hydrochloride (6 mmol), and a solution of p-toluenesulfonyl chloride (49 mmol) in CH2Cl2 (50 mL) at 0° C., then the mixture is stirred at 0° C. for 0.5 h. The reaction is quenched by the addition of water, and the mixture is extracted with CH2Cl2. The combined organic extracts are washed with water and brine. The organic layer is dried over Na2SO4, filtered, and concentrated in vacuo to give toluene-4-sulfonic acid 1-methylcyclobutylmethyl ester, which is directly used for the next reaction without further purification.

reactant | (1-methylcyclobutyl)methanol | 32 mmol | CC1(CCC1)CO | C6H12O
reactant | triethylamine | 65 mmol | C(C)N(CC)CC | C6H15N
reactant | trimethylamine hydrochloride | 6 mmol | Cl.CN(C)C
reactant | p-toluenesulfonyl chloride | 49 mmol | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | toluene-4-sulfonic acid 1-methylcyclobutylmethyl ester | CC1(CCC1)COS(=O)(=O)C1=CC=C(C=C1)C | C13H18O3S
